US05135955
4(Hexyloxy)-β-(4-fluorophenyl)benzenepropanamine
A solution of 51.5 g of 4-hexyloxybenzaldehyde and 33.8 g of 4-fluorophenylacetonitrile in methanol was stirred at room temperature and aqueous sodium hydroxide (50 percent) was added dropwise until a precipitate appeared. Water was then added and the solids were collected by filtration to render α-[[4-(hexyloxy)phenyl]methylene]-4-fluorophenylacetonitrile which was reduced as follows. 40.2 g of said nitrile, 10 g of Raney nickel, 150 ml of anhydrous ammonia and 300 ml of tetrahydrofuran were stirred at 110° for 12 hours at a pressure of 2000 psi. The catalyst and solvent were removed and the hydrochloride salt was made in the filtrate by the addition of anhydrous hydrochloric acid. Recrystallization from methanol rendered the title compound (20 percent yield).

reactant | 4-hexyloxybenzaldehyde | 51.5 g | C(CCCCC)OC1=CC=C(C=O)C=C1 | C13H18O2
reactant | 4-fluorophenylacetonitrile | 33.8 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Water | O | H2O
solvent | methanol | CO | CH4O
product | 4(Hexyloxy)-β-(4-fluorophenyl)benzenepropanamine | 20 percent yield | C(CCCCC)OC1=CC=C(C=C1)CC(CN)C1=CC=C(C=C1)F | C21H28FNO
